US04186199
A mixture of 14.0 g of 1-(2-formamidophenyl)indoline and 50 ml of fresh phosphorus oxychloride are stirred and heated under N2. The mixture is refluxed 4.0 hours, then left at room temperature 18 hours. Excess POCl3 is then removed, leaving a solid which is triturated and boiled with absolute ethanol. The mixture is stirred 1 hour to homogenize the fine solid, then filtered, washed with ethanol, and dried to afford 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine hydrochloride, m.p. 228°-230° C. dec.

reactant | 1-(2-formamidophenyl)indoline | 14.0 g | C(=O)NC1=C(C=CC=C1)N1CCC2=CC=CC=C12 | C15H14N2O
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine hydrochloride | Cl.C1CC2=CC=CC3=C2N1C1=C(N=C3)C=CC=C1 | InChI=1S/C15H12N2.ClH/c1-2-7-14-13(6-1)16-10-12-5-3-4-11-8-9-17(14)15(11)12;/h1-7,10H,8-9H2;1H
